data/polar.json
{"reaction_name": "Reimer–Tiemann reaction", "rsmi": "[O-:1][c:2]1[c:3]([H:10])[cH:4][cH:5][cH:6][cH:7]1.[CH+:8]=[O:9]>>[O-:1][c:2]1[c:3]([CH:8]=[O:9])[cH:4][cH:5][cH:6][cH:7]1.[H+:10]", "epd": [["Sigma-/Sigma+", [3, 10], [3, 8]]]}
{"reaction_name": "Aminal formation", "rsmi": "[N:1]([H:3])([CH3:7])[CH3:8].[N:2]([H:4])([CH3:9])[CH3:10].[O:5]=[CH:11][CH3:6]>>[H:3][O:5][H:4].[N:1]([CH3:7])([CH3:8])[CH:11]([N:2]([CH3:9])[CH3:10])[CH3:6]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Sigma-/LP+", [5, 11], [5]], ["LP-/Sigma+", [5], [3, 5]], ["Sigma-/LP+", [1, 3], [1]], ["LP-/Sigma+", [2], [2, 11]], ["Pi-/LP+", [5, 11], [5]], ["LP-/Sigma+", [5], [4, 5]], ["Sigma-/LP+", [2, 4], [2]]]}
{"reaction_name": "Nucleotide phosphoramidite coupling", "rsmi": "[CH3:2][N:11]([CH3:3])[P:13]([O:4][CH3:8])([O:5][CH3:9])[O:6][CH3:10].[H+:7].[O:1]([H:12])[CH3:14]>>[CH3:2][N:11]([CH3:3])[H:12].[H+:7].[O:1]([P:13]([O:4][CH3:8])([O:5][CH3:9])[O:6][CH3:10])[CH3:14]", "epd": [["LP-/Sigma+", [1], [1, 13]], ["Sigma-/LP+", [11, 13], [11]], ["LP-/Sigma+", [11], [11, 12]], ["Sigma-/LP+", [1, 12], [1]]]}
{"reaction_name": "Vinylogous aldol addition", "rsmi": "[O:1]=[C:4]([CH:7]=[CH:2][CH2-:3])[CH3:9].[O:5]=[CH:8][CH3:6]>>[O:1]=[C:4]([CH:7]=[CH:2][CH2:3][CH:8]([O-:5])[CH3:6])[CH3:9]", "epd": [["LP-/Sigma+", [3], [3, 8]], ["Pi-/LP+", [5, 8], [5]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N:6]1([CH3:13])[C:11](=[C:21]([c:8]2[cH:16][cH:25][cH:14][cH:26][cH:17]2)[O:34][CH3:20])[S:15][c:27]2[cH:7][cH:12][cH:31][cH:24][c:29]21.[c:1]12[c:4]([cH:22][cH:18][cH:32][cH:9]1)-[c:5]1[c:2]([cH:10][cH:33][cH:19][cH:23]1)[N+:30]2=[CH:3][CH3:28]>>[c:1]12[c:4]([c:5]3[c:2]([cH:10][cH:33][cH:19][cH:23]3)[n:30]1[CH:3]([C:21]([c:8]1[cH:16][cH:25][cH:14][cH:26][cH:17]1)([c:11]1[n+:6]([CH3:13])[c:29]3[cH:24][cH:31][cH:12][cH:7][c:27]3[s:15]1)[O:34][CH3:20])[CH3:28])[cH:22][cH:18][cH:32][cH:9]2", "epd": [["LP-/Pi+", [6], [11, 6]], ["Pi-/Sigma+", [21, 11], [21, 3]], ["Pi-/LP+", [3, 30], [30]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][CH:8]([CH3:2])[N+:21]1=[N:26][N:20]([CH:3]([CH3:27])[CH3:28])[C:29](=[CH2:19])[C-:5]1[C:7]([CH3:30])([CH3:31])[CH3:32].[CH3:4][O:6][c:9]1[cH:33][cH:14][c:13]([CH:23]=[C:22]2[CH:24]=[C:10]([Br:17])[C:12](=[O:16])[C:11]([Br:18])=[CH:25]2)[cH:15][cH:34]1>>[CH3:1][CH:8]([CH3:2])[n+:21]1[c:5]([C:7]([CH3:30])([CH3:31])[CH3:32])[c:29]([CH2:19][CH:23]([c:13]2[cH:14][cH:33][c:9]([O:6][CH3:4])[cH:34][cH:15]2)[c:22]2[cH:24][c:10]([Br:17])[c:12]([O-:16])[c:11]([Br:18])[cH:25]2)[n:20]([CH:3]([CH3:27])[CH3:28])[n:26]1", "epd": [["LP-/Pi+", [5], [29, 5]], ["Pi-/Sigma+", [19, 29], [19, 23]], ["Pi-/Pi+", [23, 22], [22, 24]], ["Pi-/Pi+", [24, 10], [10, 12]], ["Pi-/LP+", [12, 16], [16]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:9]1[cH:7][c:11]([N+:15](=[O:6])[O-:18])[cH:16][c:8]2[c:22]1[n:13][o:20][n+:27]2[O-:3])[O-:12].[cH:4]1[c:21]2[cH:19][cH:26][c:24]([S-:10])[cH:17][c:25]2[cH:14][cH:5][cH:23]1>>[N+:1](=[O:2])([C:9]1=[CH:7][C:11](=[N+:15]([O-:6])[O-:18])[CH:16]([S:10][c:24]2[cH:17][c:25]3[cH:14][cH:5][cH:23][cH:4][c:21]3[cH:19][cH:26]2)[c:8]2[c:22]1[n:13][o:20][n+:27]2[O-:3])[O-:12]", "epd": [["LP-/Sigma+", [10], [10, 16]], ["Pi-/Pi+", [16, 11], [11, 15]], ["Pi-/LP+", [15, 6], [6]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[CH:1]1=[CH:5][c:6]2[cH:14][cH:13][cH:17][cH:9][c:15]2[CH:18]1[Na:16].[c:2]1([N:19]=[C:4]=[S:10])[cH:21][cH:11][c:7]([N+:20](=[O:3])[O-:8])[cH:12][cH:22]1>>[CH:1]1=[CH:5][c:6]2[cH:14][cH:13][cH:17][cH:9][c:15]2[CH:18]1[C:4]([S-:10])=[N:19][c:2]1[cH:21][cH:11][c:7]([N+:20](=[O:3])[O-:8])[cH:12][cH:22]1.[Na+:16]", "epd": [["Sigma-/Sigma+", [18, 16], [18, 4]], ["Pi-/LP+", [4, 10], [10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:6]1[o:28][n:19][c:7]2[c:13]3[n+:5]([O-:20])[o:2][n:25][c:18]3[c:21]([N+:3]([O-:26])=[O:32])[cH:11][c:33]12.[cH:4]1[cH:15][cH:8][c:24]([C:17](=[C:10]2[N:12]([CH3:30])[C:22]([CH3:29])=[C:34]([CH3:31])[S:23]2)[O:27][CH3:14])[cH:9][cH:16]1>>[O-:1][n+:6]1[o:28][n:19][c:7]2[c:33]1[CH:11]([C:17]([c:10]1[n+:12]([CH3:30])[c:22]([CH3:29])[c:34]([CH3:31])[s:23]1)([c:24]1[cH:8][cH:15][cH:4][cH:16][cH:9]1)[O:27][CH3:14])[C:21](=[N+:3]([O-:26])[O-:32])[c:18]1[c:13]-2[n+:5]([O-:20])[o:2][n:25]1", "epd": [["LP-/Pi+", [12], [10, 12]], ["Pi-/Sigma+", [17, 10], [17, 11]], ["Pi-/Pi+", [11, 21], [21, 3]], ["Pi-/LP+", [3, 32], [32]]]}
